US04764623
2,2,3,3,4,4,5,5,5-Nonafluoro-N-[4-(1H-tetrazol-5-ylmethyl)phenyl]pentanamide
A mixture of 2,2,3,3,4,4,5,5,5-nonafluoro-N-[4-(cyanomethyl)phenyl]pentanamide (6.8 g), sodium azide (5.56 g), ammonium chloride (4.53 g) and dimethylformamide (100 mL) were heated in a 135° C. oil bath under a nitrogen atmosphere overnight. Enough water was added to the hot reaction mixture to dissolve all suspended salts, the mixture was cooled to room temperature and more water was added until a precipitate formed. The solid was collected, washed with water and air dried. Recrystallization from ethylacetate/diethyl ether mixture yielded 3.4 g of the title compound as white flakes, m.p. 173°-174° C. The filtrate produced a second crop of 1.1 g of the title compound.

reactant | 2,2,3,3,4,4,5,5,5-nonafluoro-N-[4-(cyanomethyl)phenyl]pentanamide | 6.8 g | FC(C(=O)NC1=CC=C(C=C1)CC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H7F9N2O
reactant | sodium azide | 5.56 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.53 g | [Cl-].[NH4+]
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,2,3,3,4,4,5,5,5-Nonafluoro-N-[4-(1H-tetrazol-5-ylmethyl)phenyl]pentanamide | 3.4 g | FC(C(=O)NC1=CC=C(C=C1)CC1=NN=NN1)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H8F9N5O
